US05804586
A mixture of 2-(4-methoxy-3-methylphenyl)ethylamine (16 g), triethylamine (1.74 ml), 1,3-dicyclohexylcarbodiimide (8.75 g), 1-(2-thienyl)cyclopropanecarboxylic acid (7 g) and 1-hydroxybenzotriazole (5.6 g) in tetrahydrofuran (95 ml) was stirred for 16 hours. The mixture was poured into water, basified with aqueous ammonia solution and filtered. The filtrate was extracted with ethyl acetate (3×50 ml) and the combined extracts washed with 1M hydrochloric acid and brine then dried and the solvent removed in vacuo. The resulting gum was treated with acetonitrile and insoluble matter filtered off. Evaporation of the filtrate gave crude N-(2-(4-methoxy-3-methylphenyl)ethyl)-1-(2-thienyl)cyclopropanecarboxamide as a solid (10.7 g), which was used without further purification.

reactant | 2-(4-methoxy-3-methylphenyl)ethylamine | 16 g | COC1=C(C=C(C=C1)CCN)C | C10H15NO
reactant | 1,3-dicyclohexylcarbodiimide | 8.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(2-thienyl)cyclopropanecarboxylic acid | 7 g | S1C(=CC=C1)C1(CC1)C(=O)O | C8H8O2S
reactant | 1-hydroxybenzotriazole | 5.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 1.74 ml | C(C)N(CC)CC | C6H15N
product | N-(2-(4-methoxy-3-methylphenyl)ethyl)-1-(2-thienyl)cyclopropanecarboxamide | 10.7 g | COC1=C(C=C(C=C1)CCNC(=O)C1(CC1)C=1SC=CC1)C | C18H21NO2S
